US04065570
5-(3',4'-Dihydroxybenzal) hydantoin
A mixture of 3,4-dihydroxybenzaldehyde (2.072 g.) and hydantoin (1.50 g.) in water (15) was heated to 70° to give a clear solution. To this was added monoethanolamine (1.33 g.) and the magnetically stirred mixture was heated (90°-92°, bath temperature) for 4 hours. Within 10 minutes crystallization occurred. The product was allowed to cool to room temperature and was stored overnight. After immersing in an ice-bath, the mixture was acidified with HCl, refrigerated 5 hours, filtered, washed with cold (-10° ) 1:1 methanol-water and dried. The title compound was obtained as a pale brown solid: 2.776 g, m.p. 300°-310°. (Trituration with hot absolute ethanol gave a pale brown solid in ca 65% recovery, m.p. 320° decomp.)

reactant | 3,4-dihydroxybenzaldehyde | 2.072 g | OC=1C=C(C=O)C=CC1O | C7H6O3
reactant | hydantoin | 1.50 g | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | monoethanolamine | 1.33 g | C(O)CN | C2H7NO
solvent | water | O | H2O
product | 5-(3',4'-Dihydroxybenzal) hydantoin | OC=1C=C(C=C2C(NC(N2)=O)=O)C=CC1O | C10H8N2O4
